US06372749B1
30.7 ml of n-butyl lithium (1.63 M, n-hexane solution) was diluted with 35 ml of THF, and the diluted solution was cooled to −78° C. in an atmosphere of argon. Thereto was added a solution of 10.4 g of diethyl methylthiomethylphosphonate in 10 ml of THF, followed by stirring at −78° C. for 1 hour. Thereto was added dropwise a solution of 5 g of 5-n-butyl-7-chloropyrazolo[1,5-a]pyrimidine in 5 ml of THF, followed by stirring at −78° C. for 1 hour. The reaction mixture was diluted with ethyl acetate and washed sequentially with aqueous ammonium chloride solution, water and saturated saline and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane=1:3→1:1). As a result, 5.9 g of diethyl (5-n-butylpyrazolo[1,5-a]pyrimidin-7-yl)methylthiomethylphosphonate was obtained as an oily product.

reactant | n-butyl lithium | 1.63 M, 30.7 ml | C(CCC)[Li]
reactant | diethyl methylthiomethylphosphonate | 10.4 g | CSCP(OCC)(OCC)=O | C6H15O3PS
reactant | 5-n-butyl-7-chloropyrazolo[1,5-a]pyrimidine | 5 g | C(CCC)C1=NC=2N(C(=C1)Cl)N=CC2 | C10H12ClN3
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethyl (5-n-butylpyrazolo[1,5-a]pyrimidin-7-yl)methylthiomethylphosphonate | 5.9 g | C(CCC)C1=NC=2N(C(=C1)CSCP(OCC)(OCC)=O)N=CC2 | C16H26N3O3PS
